US03966780
24 g of citronellal and 40 g of diethylphosphono-α-methylcrotonic acid methyl ester are dissolved in 100 ml of absolute benzene. To this solution there is added dropwise 4 g of sodium in 50 ml of absolute methanol. The mixture is stirred for 5 hours at 60°C., poured on to ice-water and extracted with diethyl ether. The ethereal solution is washed with water, then with aqueous sodium bicarbonate solution and once again with water, dried over sodium sulphate, filtered and concentrated on a rotary evaporator. After chromatography on a 30-fold amount of Kieselgel, using hexane/diethyl ether (9:1 parts by volume) as the eluant, there is obtained 2,7,11-trimethyl-2,4,10-dodecatrienoic acid methyl ester; boiling point 95°C/0.001 mmHg.

reactant | citronellal | 24 g | CC(C)=CCCC(C)CC=O | C10H18O
reactant | diethylphosphono-α-methylcrotonic acid methyl ester | 40 g | COC(\C(=C(\C)/P(=O)(OCC)OCC)\C)=O | C10H19O5P
reactant | sodium | 4 g | [Na] | Na
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | methanol | 50 ml | CO | CH4O
product | 2,7,11-trimethyl-2,4,10-dodecatrienoic acid methyl ester | COC(C(=CC=CCC(CCC=C(C)C)C)C)=O | C16H26O2
